US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.4 g, 1.20 mmol) and 4-(trifluoromethoxy)benzoyl chloride (0.27 g, 1.20 mmol) in N,N-dimethylformamide (15 mL), was added triethylamine (0.34 mL, 2.40 mmol) at room temperature under nitrogen. After 2 h, the mixture was diluted with water (60 mL) and stirred for 1 h. The product was isolated by filtration, washed with water (50 mL) and dried in vacuo providing N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-trifluoromethoxy-benzamide as an off-white solid (0.41 g, 71% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.81 min (95.39%); mp: 224-226° C.; 1H NMR (DMSO-d6) δ 1.66 (s, 3H), 1.82-1.94 (m, 1H), 2.52-2.82 (m, 3H), 4.48-4.69 (m, 4H), 7.38-7.56 (m, 4H), 7.61 (d, J=7.9 Hz, 1H), 8.04 (d, J=8.7 Hz, 2H), 9.28 (t, J=5.5 Hz, 1H), 10.86 (s, 1H); 13C NMR (DMSO-d6) δ 20.74, 27.81, 29.01, 42.78, 47.64, 57.12, 119.9 (q, J=256 Hz), 120.68, 121.82, 122.58, 127.04, 129.60, 131.02, 133.36, 142.41, 143.57, 150.34, 165.06, 167.00, 172.44, 173.55; LCMS: MH=476; Anal Calcd for C23H20F3N3O5+0.7H2O: C, 56.61; H, 4.42; N, 8.61. Found: C, 56.60; H, 4.11; N, 8.61.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.20 mmol, 0.4 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-(trifluoromethoxy)benzoyl chloride | 1.20 mmol, 0.27 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | triethylamine | 2.40 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 60 mL | O | H2O
product | N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-trifluoromethoxy-benzamide | 0.41 g, 71% yield | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=C(C=C2C1)CNC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C23H20F3N3O5
